US08791139B2
Synthesis of methyl 1-(3-chloropyridin-2-yl)-3-{[6-(trifluoromethyl)pyridin-3-yl]methyl}-1H-pyrazole-5-carboxylate
Under argon, 0.8 g (2.36 mmol) of methyl 3-(bromomethyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate, 1.18 g (2.60 mmol) of 5-(tributylstannyl)-2-(trifluoromethyl)pyridine, 0.11 g (0.47 mmol) of tri-2-furylphosphine and 0.07 g (0.07 mmol) of tri(dibenzylideneacetone)dipalladium were stirred in NMP at 100° C. for 2 h. The solvent was distilled off under reduced pressure, and the residue was taken up in 80 ml of ethyl acetate and stirred vigorously with 70 ml of saturated potassium fluoride solution for 60 min. The organic phase was separated off, washed once with saturated sodium chloride solution, dried over sodium sulphate and concentrated using a rotary evaporator. The desired product was obtained by chromatographic purification.

reactant | methyl 3-(bromomethyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | 2.36 mmol, 0.8 g | BrCC1=NN(C(=C1)C(=O)OC)C1=NC=CC=C1Cl | C11H9BrClN3O2
reactant | 5-(tributylstannyl)-2-(trifluoromethyl)pyridine | 2.60 mmol, 1.18 g | C(CCC)[Sn](C=1C=CC(=NC1)C(F)(F)F)(CCCC)CCCC
reactant | tri-2-furylphosphine | 0.47 mmol, 0.11 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | NMP | CN1CCCC1=O | C5H9NO
product | methyl 1-(3-chloropyridin-2-yl)-3-{[6-(trifluoromethyl)pyridin-3-yl]methyl}-1H-pyrazole-5-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)CC=1C=NC(=CC1)C(F)(F)F | C17H12ClF3N4O2
